US07754737B2
To a solution of (3R)-3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)-N-(3-(1-hydroxycyclohexyl)-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)piperidine-1-carboxamide (20 mg, 0.03 mmol) in anhydrous THF (1 mL) was added Et4NF (3 mg). The solution was stirred at 45° C. for 2 h and evaporated under reduced pressure. The residue was purified by prep HPLC to give (3R)-3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)-N-(3-(1-hydroxycyclohexyl)-1-(methylamino)propan-2-yl)piperidine-1-carboxamide (13.2 mg, 71%) as its TFA salt. 1H NMR (400 MHz, CD3OD): 7.43 (t, 1H), 7.32-7.21 (m, 3H), 4.42 and 4.29 (two isomers on 1 to 1 ratio, d, 1H), 4.15 (m, 1H), 3.95 and 3.83 (two isomers on 1 to 1 ratio, d, 1H), 3.34 (m, 1H), 3.27 (s, 3H), 3.14 (m, 1H), 2.99 (m, 1H), 2.80 (s, 3H), 2.64-2.38 (m, 3H), 1.94 (t, 2H), 1.76 (m, 2H), 1.68-1.18 (m, 20H), 0.98 (m, 1H); MS m/z 524 (M+H+).

reactant | (3R)-3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)-N-(3-(1-hydroxycyclohexyl)-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)piperidine-1-carboxamide | 0.03 mmol, 20 mg | ClC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)NC(CN(C(=O)OCC[Si](C)(C)C)C)CC1(CCCCC1)O | C34H58ClN3O6Si
reactant | Et4NF | 3 mg | [N+](CC)(CC)(CC)CC.[F-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (3R)-3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)-N-(3-(1-hydroxycyclohexyl)-1-(methylamino)propan-2-yl)piperidine-1-carboxamide | 13.2 mg, 71% | ClC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)NC(CNC)CC1(CCCCC1)O | C28H46ClN3O4
